US05514680
Preparation of 5,6-Dichloro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione
A mixture of 25 mg (0.089 mmol) of 6-amino-5-chloro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione in 1 mL of concentrated H2SO4 (97%) was stirred in an ice-bath for 1 h. To the resulting yellow solution was added dropwise solution of 40 mg (0.58 mmol) of NaNO2 in 0.5 mL of H2O and the solution was stirred in an ice-bath for 2 h. To the resulting red solution was added an icy cooled solution of 60 mg of CuCl in 0.8 mL of 6N HCl and the resulting mixture was stirred in ice-bath for 2 h, then at room temperature overnight. The mixture was diluted by 2 mL of H2O and stirred for 1 h, then 2 mL of H2O and stirred for 1 h. It was filtered, washed by water, and dried to leave white solid (20 mg, 74%), mp>250° C. 1H NMR (DMSO-d6), 7.492 (s, 1), 11.849 (mb, 1), 12.229 (s, 1). MS, 298 (M+, 100), 270 (85), 207 (40), 173 (60). HRMS Calcd for C9H335Cl2F3N2O2, 297.9520, found 297.9520.

reactant | 6-amino-5-chloro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione | 0.089 mmol, 25 mg | NC=1C(=C2NC(C(NC2=CC1C(F)(F)F)=O)=O)Cl | C9H5ClF3N3O2
reactant | NaNO2 | 0.58 mmol, 40 mg | N(=O)[O-].[Na+]
reactant | HCl | 6N, 0.8 mL | Cl | ClH
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 0.5 mL | O | H2O
catalyst | CuCl | 60 mg | Cl[Cu]
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
product | 5,6-Dichloro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione | 20 mg, 74% | ClC1=C2NC(C(NC2=CC(=C1Cl)C(F)(F)F)=O)=O | C9H3Cl2F3N2O2
